US04016281
3.5 g. of 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-amino-1-tetralone are dissolved in 100 ml. of benzene. 5.3 g. of sodium carbonate are added and the mixture is cooled to 10° while a solution of 0.75 g. of acetyl chloride in 50 ml. of benzene is added dropwise at 10° with stirring. The mixture is stirred for 30 minutes. 5.3 g. more of sodium carbonate are added and the mixture is stirred for 3 hours more at 20°. It is then heated under reflux for 10 minutes, filtered and worked up in the customary manner. 2-(4-Phenyl-4-hydroxypiperidinomethyl)-6-acetamido-1-tetralone is obtained.

reactant | 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-amino-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)N)=O)O | C22H26N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(4-Phenyl-4-hydroxypiperidinomethyl)-6-acetamido-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)NC(C)=O)=O)O | C24H28N2O3
